US09302991B2
<Step-1>: (S,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide
The title compound is prepared in 95% yield (1.17 g, a pale yellow solid) from 2-fluoro-4-(trifluoromethyl)benzaldehyde (800 mg, 4.16 mmol) and (S)-2-methylpropane-2-sulfinamide (606 mg, 5.00 mmol) by the similar manner in Step-1 of Amine-88.

reactant | 2-fluoro-4-(trifluoromethyl)benzaldehyde | 4.16 mmol, 800 mg | FC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F4O
reactant | (S)-2-methylpropane-2-sulfinamide | 5.00 mmol, 606 mg | CC(C)(C)[S@](=O)N | C4H11NOS
product | (S,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 95% yield | FC1=C(\C=N\[S@@](=O)C(C)(C)C)C=CC(=C1)C(F)(F)F | C12H13F4NOS
